US08183415B2
The invention also provides, in another embodiment, an alternative route for synthesizing cinacalcet via the reduction of an alkyne precursor. The precursor is obtained by reacting an aryl acetylene with an appropriately substituted isocyanate. For example, a solution of 3-ethynyl-α,α,α-trifluorotoluene (0.73 mL; 5.06 mmol; 2.0 equiv.) in anhydrous THF (20 mL) was cooled to −78° C. (acetone/dry ice bath). A hexane solution of n-BuLi (1.6M, 2.69 mL; 4.30 mmol; 1.7 equiv.). is then added and the reaction mixture stirred at −78° C. for 30 minutes. A solution of (R)-1-(1-isocyanatoethyl)naphthalene (1.0 equiv.; 2.53 mmol; 0.447 mL) in THF is then added to the reaction mixture which is stirred for an additional 30 minutes at −78° C. The reaction is stopped by the addition of an aqueous solution of ammonium chloride to the organic mixture. The organic layer is repeatedly extracted with water, dried over magnesium sulfate and the solvent removed in vacuo to afford 3-(3-Trifluoromethyl-phenyl)-propynoic acid ((R)-1-naphthalen-1-yl-ethyl)-amide as product. Isolated 830 mg, 89.2% yield. The identity of the product is confirmed by 1H NMR and high resolution mass spectrometry. (300 MHz, CDCl3) δ ppm 1.77 (d, 3H) 5.97-6.08 (m, 1H) 6.15 (br. S., 1H) 7.42-7.70 (m, 7H) 7.75 (s, 1H) 7.81-7.94 (m, 2H) 8.12 (d, 1H) and HRMS (M+1): 368.1

reactant | cinacalcet | C[C@H](C=1C=CC=C2C1C=CC=C2)NCCCC=3C=CC=C(C3)C(F)(F)F | C22H22F3N
reactant | 3-ethynyl-α,α,α-trifluorotoluene | 5.06 mmol, 0.73 mL, 2.0 equiv. | C(#C)C=1C=C(C=CC1)C(F)(F)F | C9H5F3
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | n-BuLi | 4.30 mmol, 1.6M, 2.69 mL, 1.7 equiv. | [Li]CCCC
reactant | (R)-1-(1-isocyanatoethyl)naphthalene | 2.53 mmol, 0.447 mL, 1.0 equiv. | N(=C=O)[C@H](C)C1=CC=CC2=CC=CC=C12 | C13H11NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-(3-Trifluoromethyl-phenyl)-propynoic acid ((R)-1-naphthalen-1-yl-ethyl)-amide | 89.2% yield | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC(C#CC1=CC(=CC=C1)C(F)(F)F)=O | C22H16F3NO
